US05045552
2-Chloromethyl-4-(4-methoxybutoxy)pyridine
5.6 g of crude 2-hydroxymethyl-4-(4-methoxybutoxy)pyridine was dissolved in 80 ml of chloroform to obtain a solution. A solution of 3.8 g of thionyl chloride in 10 ml of chloroform was dropwise added to this solution at 0° C. The obtained mixture was stirred at 0° C. for one hour. After the completion of the reaction, the reaction mixture was neutralized with a saturated aqueous solution of sodium hydrogencarbonate and extracted with 200 ml of chloroform twice. The extract was dried over magnesium sulfate and filtered. The filtrate was distilled to remove the solvent. The obtained residue was dried in a vacuum to obtain 5.09 g of the title compound as a crude oil.

reactant | 2-hydroxymethyl-4-(4-methoxybutoxy)pyridine | 5.6 g | OCC1=NC=CC(=C1)OCCCCOC | C11H17NO3
reactant | thionyl chloride | 3.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloromethyl-4-(4-methoxybutoxy)pyridine | 5.09 g | ClCC1=NC=CC(=C1)OCCCCOC | C11H16ClNO2
